US05523457
Methyl p-[(diethoxyphosphoryl)methyl]benzoate (4.00 g, 13.97 mmoles, prepared as in Liebigs Ann. Chem. 1985, 929) was added to a 1M dimsyl anion solution in dimethylsulfoxide (12.71 mL,12.71 mmoles, prepared by warming sodium hydride in dimethylsulfoxide for 1 hour at 65° C.). After 30 minutes, the mixture was added to a solution of 1-(8-phenyl-2-naphthyl)ethanone (XIVa) (0.540 g, 2.19 mmoles) in dimethylsulfoxide (10.0 mL) at room temperature. After 2 hours at room temperature, a 1M solution of sodium ethoxide in ethanol (1.31 mL, 2.63 mmoles) was added. After 2 hours at room temperature, the mixture was diluted with saturated sodium bicarbonate (100 mL) and extracted with diethyl ether (100 mL×3). The solution was evaporated and the residue chromatographed (eluted with 5% ethyl acetate in hexane) over silica to give 0.500 g (yield: 64%) of 4-[2-(8-phenyl-2-naphthalenyl)-propenyl]benzoic acid, ethyl ester as a white solid. NMR indicated the ratio of E to Z isomers as 2:1.

reactant | Methyl p-[(diethoxyphosphoryl)methyl]benzoate | 13.97 mmoles, 4.00 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)OC)C=C1 | C13H19O5P
reactant | 1-(8-phenyl-2-naphthyl)ethanone | 2.19 mmoles, 0.540 g | C1(=CC=CC=C1)C=1C=CC=C2C=CC(=CC12)C(C)=O | C18H14O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 2.63 mmoles, 1.31 mL | C(C)O | C2H6O
solvent | dimethylsulfoxide | 10.0 mL | CS(=O)C | C2H6OS
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | dimethylsulfoxide | 12.71 mmoles, 12.71 mL | CS(=O)C | C2H6OS
product | 4-[2-(8-phenyl-2-naphthalenyl)-propenyl]benzoic acid, ethyl ester | 0.500 g, yield: 64% | C1(=CC=CC=C1)C=1C=CC=C2C=CC(=CC12)C(=CC1=CC=C(C(=O)OCC)C=C1)C | C28H24O2
